US08022222B2
A vial was charged with 2-(5-bromo-2-(4-phenethylthiazol-2-ylamino)pyridin-4-yl)acetic acid (0.0863 g, 0.2063 mmol) in 5 ml of DMF and DIEA (0.03953 ml, 0.2269 mmol), and tetramethylfluoroformamidinium hexafluorophosphate (TFFH) (0.060 g, 0.227 mmol) were added consecutively. The mixture was stirred for 30 minutes and N-hydroxyacetamidine (0.0168 g, 0.227 mmol) was added. The mixture was heated at 100° C. overnight. The mixture was then cooled, diluted with dichloromethane, and washed with aqueous sodium bicarbonate, dried over magnesium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography, eluting with 20% ethyl acetate/hexane to provide N-(5-bromo-4-((3-methyl-1,2,4-oxadiazol-5-yl)methyl)pyridin-2-yl)-4-phenethylthiazol-2-amine (11 mg, 11.58% yield) as a yellow solid. 1H NMR (CDCl3) δ 2.37 (s, 3H), 2.94-2.98 (m, 4H), 4.25 (s, 2H), 6.39 (s, 1H), 6.89 (s, 1H), 7.14-7.26 (m, 5H), 8.45 (s, 1H).

reactant | 2-(5-bromo-2-(4-phenethylthiazol-2-ylamino)pyridin-4-yl)acetic acid | 0.2063 mmol, 0.0863 g | BrC=1C(=CC(=NC1)NC=1SC=C(N1)CCC1=CC=CC=C1)CC(=O)O | C18H16BrN3O2S
reactant | DIEA | 0.2269 mmol, 0.03953 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | tetramethylfluoroformamidinium hexafluorophosphate | 0.227 mmol, 0.060 g | F[P-](F)(F)(F)(F)F.CN(C(=[N+](C)C)F)C
reactant | N-hydroxyacetamidine | 0.227 mmol, 0.0168 g | ONC(C)=N | C2H6N2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(5-bromo-4-((3-methyl-1,2,4-oxadiazol-5-yl)methyl)pyridin-2-yl)-4-phenethylthiazol-2-amine | 11 mg, 11.58% yield | BrC=1C(=CC(=NC1)NC=1SC=C(N1)CCC1=CC=CC=C1)CC1=NC(=NO1)C | C20H18BrN5OS
